US07223788B2
1-Benzyl-1H-[1,2,3]triazole-4-carboxylic acid
Methyl 1-benzyl-1H-[1,2,3]triazol-4-carboxylate (217 mg) was dissolved in 4 ml of methanol and hydrolyzed with 2 ml of 2N sodium hydroxide solution. After acidification with 4 ml of 2N hydrochloric acid, the resulting precipitate was filtered off, taken up in 5 ml of ethyl acetate and purified by preparative HPLC. This resulted in the product with the molecular weight of 203.2 (C10H9N3O2); MS (ESI): 204 (M+H+).

reactant | Methyl 1-benzyl-1H-[1,2,3]triazol-4-carboxylate | 217 mg | C(C1=CC=CC=C1)N1N=NC(=C1)C(=O)OC | C11H11N3O2
solvent | methanol | 4 ml | CO | CH4O
solvent | sodium hydroxide | 2N, 2 ml | [OH-].[Na+]
product | 1-Benzyl-1H-[1,2,3]triazole-4-carboxylic acid | C(C1=CC=CC=C1)N1N=NC(=C1)C(=O)O | C10H9N3O2
